US07132539B2
Preparation of 2-{4-[2-tert-butoxycarbonylamino-3-(4-fluorophenyl)-propionyl]-3-ethyl-piperazin-1-yl}-3-naphthalen-2-yl-propionic acid (36):
LiOH (0.61 g, 25.5 mmol) is added to a cold solution of 2-{4-[2-tert-butoxycarbonylamino-3-(4-fluorophenyl)-propionyl]-3-ethyl-piperazin-1-yl}-3-naphthalen-2-yl-propionic acid methyl ester, 35, (3.5 g, 5.9 mmol) in THF/H2O (2:1, 36 mL). The reaction mixture is stirred overnight. The reaction mixture is cooled in a ice bath and the pH is adjusted to 3 with 1M HCl. The aqueous layer is extracted with EtOAc (3×100 mL) and dried over Na2SO4. The organic layers are combined and concentrated in vacuo to afford 3.4 g (98% yield) of the desired product.

reactant | LiOH | 25.5 mmol, 0.61 g | [Li+].[OH-]
reactant | 2-{4-[2-tert-butoxycarbonylamino-3-(4-fluorophenyl)-propionyl]-3-ethyl-piperazin-1-yl}-3-naphthalen-2-yl-propionic acid methyl ester | COC(C(CC1=CC2=CC=CC=C2C=C1)N1CC(N(CC1)C(C(CC1=CC=C(C=C1)F)NC(=O)OC(C)(C)C)=O)CC)=O | C34H42FN3O5
reactant | HCl | 1M | Cl | ClH
solvent | THF H2O | 36 mL | C1CCOC1.O
product | 2-{4-[2-tert-butoxycarbonylamino-3-(4-fluorophenyl)-propionyl]-3-ethyl-piperazin-1-yl}-3-naphthalen-2-yl-propionic acid | 3.4 g, 98% yield | C(C)(C)(C)OC(=O)NC(C(=O)N1C(CN(CC1)C(C(=O)O)CC1=CC2=CC=CC=C2C=C1)CC)CC1=CC=C(C=C1)F | C33H40FN3O5
